US06388084B1
A solution of N-[(1,1-dimethylethoxyl)carbonyl]-4-(1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester (60 mg, 0.155 mmol) in 4 N HCl in dioxane (4 mL) was stirred for 2 hr and was concentrated. The residue was triturated with several portions of ether to give 4-(1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride (55 mg, quant) as a white powder. LRMS-Electrospray: m/z positive ion 573 (2M+H) 328 (M+H+CH3CN) 319 (M+H+CH30H) 287 (M+H). HRMS: Obs. Mass 287.1396. Calcd. Mass 287.1396 (M+H)

reactant | N-[(1,1-dimethylethoxyl)carbonyl]-4-(1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester | 0.155 mmol, 60 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C=CC1)C)=O)=O | C21H26N2O5
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-(1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride | 55 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C=CC1)C)=O)=O | InChI=1S/C16H18N2O3.ClH/c1-18-9-3-4-13(15(18)19)12-7-5-11(6-8-12)10-14(17)16(20)21-2;/h3-9,14H,10,17H2,1-2H3;1H/t14-;/m0./s1
